US07723331B2
a) 3-[(1-Methylpiperidin-4-yl)methoxy]benzonitrile
(1-Methylpiperidin-4-yl)methanol (0.500 g, 3.87 mmol) was dissolved in dry DMF (8 mL), cooled (<0° C.), NaH (0.232 g, 5.80 mmol, 55% in oil) added and stirred for 30 minutes. 3-fluorobenzonitrile (0.492 g, 4.06 mmol) was added and the reaction mixture allowed to warm to r.t. over 1 hour. Due to excessive foaming the reaction mixture was diluted with dry DMF to 20 mL and stirred over night at r.t. The reaction was quenched by addition of water portionwise, and the mixture was extracted with EtOAc. The organics were dried (MgSO4) and concentrated in vacuo. The product was purified by flash chromatography using a step gradient of EtOAc:MeOH:TEA (100:10:2) in EtOAc to give the title compound as an oil. Yield: 0.417 g (44%). 1H NMR (400 MHz, CDCl3) δ 7.29-7.35 (m, 1H), 7.19 (m, 1H), 7.05-7.10 (m, 2H), 3.78 (d, 2H, J=6.1 Hz), 2.83-2.90 (m, 2H), 2.26 (s, 3H), 1.89-1.98 (m, 2H), 1.70-1.84 (m, 3H), 1.33-1.46 (m, 2H).

reactant | (1-Methylpiperidin-4-yl)methanol | 3.87 mmol, 0.500 g | CN1CCC(CC1)CO | C7H15NO
reactant | NaH | 5.80 mmol, 0.232 g | [H-].[Na+]
reactant | 3-fluorobenzonitrile | 4.06 mmol, 0.492 g | FC=1C=C(C#N)C=CC1 | C7H4FN
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-[(1-Methylpiperidin-4-yl)methoxy]benzonitrile | CN1CCC(CC1)COC=1C=C(C#N)C=CC1 | C14H18N2O
